US04587342
To a solution of 0.76 g (4.39 mmol) of 8-hydroxyquinoline-5-carboxaldehyde (G. R. Clemo and R. Howe, J. Chem. Soc., 1955, 3552) in 5 mL of dimethyl sulfoxide was added 0.24 g (4.4 mmol) of sodium methoxide, while keeping the mixture under nitrogen. After stirring for 5 min, 0.56 g (4.4 mmol) of dimethyl sulfate was added. The reaction was stirred for 1 hr and the solvent removed under vacuum. The residue was partitioned between dichloromethane (100 mL) and 0.5N sodium hydroxide (50 mL); the organic layer was washed with water (100 mL), dried over anhydrous magnesium sulfate, and concentrated to give 0.61 g (74%) of 8-methoxyquinoline-5-carboxaldehyde, mp 121°-122° after recrystallization from ethanol-hexane (2:25). Anal. Calcd for C11H9NO2 : C, 70.58; H, 4.85; N, 7.48. Found: C, 70.55; H, 4.91; N, 7.44.

reactant | 8-hydroxyquinoline-5-carboxaldehyde | 4.39 mmol, 0.76 g | OC1=CC=C(C=2C=CC=NC12)C=O | C10H7NO2
reactant | sodium methoxide | 4.4 mmol, 0.24 g | C[O-].[Na+]
reactant | dimethyl sulfate | 4.4 mmol, 0.56 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 8-methoxyquinoline-5-carboxaldehyde | 0.61 g, 74% | COC1=CC=C(C=2C=CC=NC12)C=O | C11H9NO2
